US06521630B1
A solution of 2,2,2-trifluoro-N-(3-hydroxypropyl)-acetamide (2.00 g, 11.69 mmol) and triethylamine (1.7 mL, 12.2 mmol) in methylene chloride (35 mL) was cooled in an ice bath and methanesulfonic acid anhydride in methylene chloride (15 mL) was added dropwise over 1 minutes. After stirring for 45 minutes. at 0° C. the reaction was concentrated, the residue was partitioned between ether and water, the organic extractions were washed with brine and dried over magnesium sulfate. Concentration yielded methanesulfonic acid 3-(2,2,2-trifluoroacetylamino)-propyl ester.

reactant | 2,2,2-trifluoro-N-(3-hydroxypropyl)-acetamide | 11.69 mmol, 2.00 g | FC(C(=O)NCCCO)(F)F | C5H8F3NO2
reactant | triethylamine | 12.2 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-(2,2,2-trifluoroacetylamino)-propyl ester | FC(C(=O)NCCCOS(=O)(=O)C)(F)F | C6H10F3NO4S
